US05192797
7.4 N-[5-(6-Methoxynaphthalen-1-yl)-1,3-dioxan-2-yl]-methylacetamide
2.3 g (10 mmol) of 2-(6-methoxynaphthalen-1-yl)propane-1,3-diol, 0.45 g of paratoluenesulphonic acid and 1.6 g (11 mmol) of N-(2,2-dimethoxyethyl)acetamide are introduced into a flask containing 200 ml of benzene.

reactant | 2-(6-methoxynaphthalen-1-yl)propane-1,3-diol | 10 mmol, 2.3 g | COC=1C=C2C=CC=C(C2=CC1)C(CO)CO | C14H16O3
reactant | paratoluenesulphonic acid | 0.45 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | N-(2,2-dimethoxyethyl)acetamide | 11 mmol, 1.6 g | COC(CNC(C)=O)OC | C6H13NO3
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | N-[5-(6-Methoxynaphthalen-1-yl)-1,3-dioxan-2-yl]-methylacetamide | COC=1C=C2C=CC=C(C2=CC1)C1COC(OC1)NC(CC)=O | C18H21NO4
